US09034850B2
Step A. {(R)-2-[5-bromo-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
5-Bromo-1-(2,6-difluoro-benzyl)-6-methyl-1H-pyrimidine-2,4-dione (synthesized according to the method of BMCL 2004 14(19) 4967-4973) (2.77 g, 8.37 mmol), ((R)-2-hydroxy-1-phenyl-ethyl)-carbamic acid tert-butyl ester (2.08 g, 8.78 mmol), and triphenylphosphine (3.29 g, 12.5 mmol) were added to anhydrous tetrahydrofuran (70 mL) and stirred for a short time. To this solution was slowly added diethylazodicarboxylate (1.95 mL, 12.5 mmol), followed by stirring at room temperature for 12 hrs in a nitrogen atmosphere. Following concentration, the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 2/1) and dried in a vacuum to afford 2.26 g of the compound as a white foam (yield 49%).

reactant | 5-Bromo-1-(2,6-difluoro-benzyl)-6-methyl-1H-pyrimidine-2,4-dione | BrC=1C(NC(N(C1C)CC1=C(C=CC=C1F)F)=O)=O | C12H9BrF2N2O2
reactant | ((R)-2-hydroxy-1-phenyl-ethyl)-carbamic acid tert-butyl ester | 8.78 mmol, 2.08 g | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=CC=C1)=O | C13H19NO3
reactant | triphenylphosphine | 12.5 mmol, 3.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 12.5 mmol, 1.95 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | {(R)-2-[5-bromo-3-(2,6-difluoro-benzyl)-4-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 2.26 g, yield 49% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C(=C(C1=O)Br)C)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C25H26BrF2N3O4
